US07897631B2
4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride (0.081 g, 0.437 mmol) was reacted with benzyl azide (0.071 g, 0.533 mmol) following the general procedure for click reactions outlined above to produce 4-[3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-propyl]-1H-imidazol-2-ylamine hydrochloride (0.073 g, 53%) as a pale yellow solid. 1H NMR (300 MHz, DMSO) δ 7.93 (s, 1H), δ 7.37-7.27 (m, 5H), δ 6.63 (s, 2H), δ 6.44 (s, 1H), δ 2.61 (t, 2H), δ 2.40 (t, 2H), δ 1.82 (m, 2H) ppm; 13C NMR (75 MHz, DMSO) δ 163.5, 148.1, 147.4, 135.9, 129.4, 128.7, 128.5, 128.4, 122.8, 122.8, 115.9, 109.9, 53.3, 28.5, 25.0; HRMS (ESI) calcd for C15H18N6 (M+) 282.1665. found 282.1674.

reactant | 4-Pent-4-ynyl-1H-imidazol-2-ylamine hydrochloride | 0.437 mmol, 0.081 g | Cl.C(CCC#C)C=1N=C(NC1)N
reactant | benzyl azide | 0.533 mmol, 0.071 g | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
product | 4-[3-(1-Benzyl-1H-[1,2,3]triazol-4-yl)-propyl]-1H-imidazol-2-ylamine hydrochloride | 0.073 g, 53% | Cl.C(C1=CC=CC=C1)N1N=NC(=C1)CCCC=1N=C(NC1)N | InChI=1S/C15H18N6.ClH/c16-15-17-9-13(18-15)7-4-8-14-11-21(20-19-14)10-12-5-2-1-3-6-12;/h1-3,5-6,9,11H,4,7-8,10H2,(H3,16,17,18);1H
